US06680317B2
e) Preparation of N-[4-Chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-fluorophenyl)cyanoguanidine
Following the general procedure for cyanoguanidine formation outlined in example 12, N-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-fluorophenyl)carbodiimide (350 mg, 0.72 mmol), cyanamide (121 mg, 2.88 mmol) and N,N-diisopropylethylamine (111 mg, 0.86 mmol) were reacted, followed by desilylation with Cesium fluoride (132 mg, 0.86 mmol) to form the desired product (120 mg, 40%). EI-MS m/z 412.2 (M+). 1H NMR (DMSO-d6) δ 2.86 (s, 6H), 7.20 (m, 2H), 7.27 (m, 2H), 7.40 (t, 1H), 7.52 (d, 1H), 9.06 (s, 1H), 9.20 (s, 1H), 10.51 (s, 1H).

reactant | cyanoguanidine | C(#N)NC(=N)N | C2H4N4
reactant | N-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-fluorophenyl)carbodiimide | 0.72 mmol, 350 mg | ClC1=C(C(=C(C=C1)N=C=NC1=C(C=CC=C1)F)O[Si](C)(C)C(C)(C)C)S(=O)(=O)N(C)C | C21H27ClFN3O3SSi
reactant | cyanamide | 2.88 mmol, 121 mg | N#CN | CH2N2
reactant | N,N-diisopropylethylamine | 0.86 mmol, 111 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Cesium fluoride | 0.86 mmol, 132 mg | [F-].[Cs+]
product | N-[4-Chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-fluorophenyl)cyanoguanidine | 120 mg, 40% | ClC1=C(C(=C(C=C1)N(C(=N)NC1=C(C=CC=C1)F)C#N)O)S(=O)(=O)N(C)C | C16H15ClFN5O3S
